US05656601
6. Synthesis of N-Acetoxy-norborn-5-ene-2,3-dicarboximide (Acetyl-ONB)
N-Hydroxy-norborn-5-ene-2,3-dicarboximide (17.92 g, 0.1 mole) is largely dissolved in 100 mL chloroform and 21 mL (0.15 moles) triethylamine, followed by adding 19 mL (0.2 moles) acetic anhydride at 0° C. with stirring. After stirring for 2 hours at room temperature, the solvent is largely removed, the residue is mixed with water and the precipitate is filtered off.

reactant | N-Hydroxy-norborn-5-ene-2,3-dicarboximide | 0.1 mole, 17.92 g | ON1C(=O)C2C3C=CC(C2C1=O)C3 | C9H9NO3
reactant | triethylamine | 0.15 moles, 21 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.2 moles, 19 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | N-Acetoxy-norborn-5-ene-2,3-dicarboximide | C(C)(=O)ON1C(=O)C2C3C=CC(C2C1=O)C3 | C11H11NO4
